US08304419B2
Step D: 4-Chloro-N-({2-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-4-fluorophenyl}methyl)-1H-imidazole-5-carboxamide
The title compound was prepared as described herein using 3-{[3-(aminomethyl)-2-chloro-6-fluorophenyl]oxy}-5-chlorobenzonitrile (40 mg, 0.129 mmol), 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (35.6 mg, 0.129 mmol), EDC (29.6 mg, 0.154 mmol) and HOBT (29.5 mg, 0.193 mmol) in DMF (3.0 ml) to give the title compound as a white solid (43 mg, 76%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.62 (1H, s) 7.40 (1H, dd, J=8.5, 5.4 Hz) 7.35 (2H, br. s.) 7.12-7.22 (2H, m) 7.00 (1H, s) 4.75 (2H, d). LCMS: m/z 439 (M+1).

reactant | 3-{[3-(aminomethyl)-2-chloro-6-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.129 mmol, 40 mg | NCC=1C(=C(C(=CC1)F)OC=1C=C(C#N)C=C(C1)Cl)Cl | C14H9Cl2FN2O
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.129 mmol, 35.6 mg | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | EDC | 0.154 mmol, 29.6 mg
reactant | HOBT | 0.193 mmol, 29.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-N-({2-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-4-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 43 mg, 76% | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)F)OC1=CC(=CC(=C1)C#N)Cl)Cl | C18H10Cl3FN4O2
